US06005000
A mixture of 27 g (200 mmol) of isobutylbenzene and 24 mL (215 mmol) of ethyl oxalylchloride underwent Friedel-Crafts acylation reaction in an analogous fashion as described for the synthesis of ethyl 4-phenylbenzoylformate to yield 38 g (81% yield) of ethyl 4-isobutylbenzoylformate as a colorless oil.

reactant | isobutylbenzene | 200 mmol, 27 g | C(C(C)C)C1=CC=CC=C1 | C10H14
reactant | ethyl 4-phenylbenzoylformate | C1(=CC=CC=C1)C1=CC=C(C(=O)C(=O)OCC)C=C1 | C16H14O3
product | ethyl 4-isobutylbenzoylformate | 38 g, 81% yield | C(C(C)C)C1=CC=C(C(=O)C(=O)OCC)C=C1 | C14H18O3
